US08648087B2
Step A: Preparation of 6-nitroquinazolin-4-ol:
A mixture of 2-amino-5-nitrobenzoic acid (1000 g, 5 mol) and formamidine acetate (1000 g, 10 mol) were dissolved in methoxyethanol (4 L) and heated to 115° C. for 16 hours. After cooling the mixture to room temperature, ice water (5 L) was added and the mixture was stirred for 30 minutes before collecting the product (125 g, 14%) by filtration.

reactant | 2-amino-5-nitrobenzoic acid | 5 mol, 1000 g | NC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H6N2O4
reactant | formamidine acetate | 10 mol, 1000 g | C(C)(=O)O.C(=N)N
solvent | methoxyethanol | 4 L | COC(C)O | C3H8O2
product | 6-nitroquinazolin-4-ol | [N+](=O)([O-])C=1C=C2C(=NC=NC2=CC1)O | C8H5N3O3
